US07495018B2
5-(2-cyanomethyl-4-pyridyl)-2-ethyl-4-(3-methylphenyl)-1,3-thiazole
A suspension of 5-(2-chloromethyl-4-pyridyl)-2-ethyl-4-(3-methylphenyl)-1,3-thiazole (0.40 g, 1.2 mmol), potassium cyanide (0.095 g, 1.5 mmol), 18-crown-6 (0.14 g, 0.51 mmol) in acetonitrile (5 mL) was heated under reflux for 6 hours. After cooling, an aqueous potassium carbonate solution was added, and extracted with ethyl acetate. The extracts were washed with brine, then, dried, and concentrated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=2:1). The resulting crystal was washed with hexane-isopropyl ether to obtain a title compound (0.19 g, 48%).

reactant | 5-(2-chloromethyl-4-pyridyl)-2-ethyl-4-(3-methylphenyl)-1,3-thiazole | 1.2 mmol, 0.40 g | ClCC1=NC=CC(=C1)C1=C(N=C(S1)CC)C1=CC(=CC=C1)C | C18H17ClN2S
reactant | potassium cyanide | 1.5 mmol, 0.095 g | [C-]#N.[K+]
reactant | 18-crown-6 | 0.51 mmol, 0.14 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 5-(2-cyanomethyl-4-pyridyl)-2-ethyl-4-(3-methylphenyl)-1,3-thiazole | 0.19 g, 48% | C(#N)CC1=NC=CC(=C1)C1=C(N=C(S1)CC)C1=CC(=CC=C1)C | C19H17N3S
